US03987158
A solution of 3-phenoxybutan-2-one oxime (28.8 g.) in dry ether (150 ml.) was added dropwise, over 45 minutes, to a stirred, refluxing mixture of lithium aluminium hydride (6.3 g.) in dry ether (100 ml.). Stirring and heating were continued for 4 hours and the mixture was cooled and treated cautiously with water (6.3 ml.) followed by 15% aqueous sodium hydroxide (6.3 ml.), and finally, water (18.9 ml.). The mixture was stirred for 30 minutes and then filtered. The filtrate was extracted with 2N-hydrochloric acid (150 ml.) and the acid extract was made strongly basic with sodium hydroxide and extracted with ether. The ether extract was dried over anhydrous potassium carbonate, evaporated, and distilled to give a fraction, b.p. 118°-124°/14 mm. Redistillation gave pure 2-phenoxybut-3-ylamine, b.p. 116°-118°/14 mm.

reactant | 3-phenoxybutan-2-one oxime | 28.8 g | O(C1=CC=CC=C1)C(C(C)=NO)C | C10H13NO2
reactant | lithium aluminium hydride | 6.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6.3 ml | O | H2O
reactant | sodium hydroxide | 6.3 ml | [OH-].[Na+]
reactant | water | 18.9 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-phenoxybut-3-ylamine | O(C1=CC=CC=C1)C(C)C(C)N | C10H15NO
